US07989460B2
A mixture of 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(piperazin-1-yl)ethoxy]quinazoline (0.15 g), chloroacetone (0.036 ml), potassium carbonate (0.05 g) and DMA (1.3 ml) was stirred and heated to 70° C. for 1.5 hours. The mixture was cooled to ambient temperature, the precipitate was filtered off and the residue was purified by preparative LCMS (Hypersil C18-β-Basic column using a solvent gradient consisting of acetonitrile and water buffered with a 5% ammonium carbonate solution (100 g/L, pH 8.9). Evaporation of the solvents gave 7-{2-[4-(acetylmethyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline as a pale yellow solid (0.10 g), which was dried under vacuum.

reactant | 6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]-7-[2-(piperazin-1-yl)ethoxy]quinazoline | 0.15 g | COC=1C=C2C(=NC=NC2=CC1OCCN1CCNCC1)OC=1C=C2C=C(NC2=CC1)C | C24H27N5O3
reactant | chloroacetone | 0.036 ml | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 0.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 1.3 ml | CC(=O)N(C)C | C4H9NO
product | 7-{2-[4-(acetylmethyl)piperazin-1-yl]ethoxy}-6-methoxy-4-[(2-methyl-1H-indol-5-yl)oxy]quinazoline | 0.10 g | C(C)(=O)CN1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C=C(NC2=CC1)C)OC | C27H31N5O4
